US06352993B1
5,6-dimethyl-2-butylamino4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride
After butylamine(0.53 ml, 5.4 mmol) and triethylamine(0.38 ml, 2.7 mmol) were added to a solution of 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine(0.5 g, 1.8 mmol) in dimethylformamide, 300 mg of the titled compound was obtained in accordance with the same procedure as in Example 1.

reactant | butylamine | 5.4 mmol, 0.53 ml | C(CCC)N | C4H11N
reactant | triethylamine | 2.7 mmol, 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-5,6-dimethyl-4-(1,2,3,4-tetrahydroisoquinolin-2-yl) pyrimidine | 1.8 mmol, 0.5 g | ClC1=NC(=C(C(=N1)N1CC2=CC=CC=C2CC1)C)C | C15H16ClN3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-2-butylamino4-(1,2,3,4-tetrahydroisoquinolin-2-yl)pyrimidine hydrochloride | 300 mg, Yield: 48.0% | Cl.CC=1C(=NC(=NC1C)NCCCC)N1CC2=CC=CC=C2CC1 | InChI=1S/C19H26N4.ClH/c1-4-5-11-20-19-21-15(3)14(2)18(22-19)23-12-10-16-8-6-7-9-17(16)13-23;/h6-9H,4-5,10-13H2,1-3H3,(H,20,21,22);1H
